US07273877B2
Ethyl 4-(2-fluoro-4-iodoanilino)-6-oxo-1,6-dihydro-3-pyridinecarboxylate was reacted with NaH and bromopropane in DMF under the same conditions as for example 22, step A to give a crude solid which was purified by column chromatography on silica gel (50% EtOAc/hexanes as eluant). Ethyl 4-(2-fluoro-4-iodoanilino)-6-oxo-1-propyl-1,6-dihydro-3-pyridinecarboxylate was isolated as a white solid (54%), m.p. (EtOAc/hexanes) 147-150° C. 1H NMR [(CD3)2SO, 400 MHz] δ 9.29 (s, 1H), 8.50 (s, 1H), 7.76 (dd, J=10.1, 1.9 Hz, 1H), 7.60 (ddd, J=8.4, 2.0, 0.8 Hz, 1H), 7.31 (t, J=8.5 Hz, 1H), 5.46 (d, J=1.3 Hz, 1H), 4.30 (q, J=7.1 Hz, 2H), 3.85 (t, J=7.3 Hz, 2H), 1.62 (sextet, J=7.3 Hz, 2H), 1.33 (t, J=7.1 Hz, 3H), 0.85 (t, J=7.4 Hz, 3H). Anal. Calcd for C17H18FIN2O3: C, 46.0; H, 4.1; N, 6.3. Found: C, 45.8; H, 3.9; N, 6.0.

reactant | Ethyl 4-(2-fluoro-4-iodoanilino)-6-oxo-1,6-dihydro-3-pyridinecarboxylate | FC1=C(NC=2C(=CNC(C2)=O)C(=O)OCC)C=CC(=C1)I | C14H12FIN2O3
reactant | NaH | [H-].[Na+]
reactant | bromopropane | BrCCC | C3H7Br
solvent | DMF | CN(C)C=O | C3H7NO
product | Ethyl 4-(2-fluoro-4-iodoanilino)-6-oxo-1-propyl-1,6-dihydro-3-pyridinecarboxylate | FC1=C(NC=2C(=CN(C(C2)=O)CCC)C(=O)OCC)C=CC(=C1)I | C17H18FIN2O3
